US04282212
1-N-Dimethoxyphosphoryl-carbamoyl-2-cyanoaziridine
A solution of 3.6 g. dimethoxyphosphoryl isocyanate in 18 ml. anhydrous diethyl ether is added dropwise at 5°-10° C. to a solution of 1.62 g. 2-cyanoaziridine in 36 ml. anhydrous diethyl ether. After stirring for 2 hours in an ice bath, the reaction mixture is allowed to warm to ambient temperature. The precipitated crystals are filtered off with suction and washed with diethyl ether. There is thus obtained 1.85 g. 1-N-dimethoxyphosphoryl-carbamoyl-2-cyanoaziridine; m.p. 72°-76° C. (decomp.).

reactant | dimethoxyphosphoryl isocyanate | COP(=O)(OC)N=C=O | C3H6NO4P
reactant | 2-cyanoaziridine | C(#N)C1NC1 | C3H4N2
reactant | diethyl ether | C(C)OCC | C4H10O
product | 1-N-Dimethoxyphosphoryl-carbamoyl-2-cyanoaziridine | COP(=O)(OC)N1C(C1)(C#N)C(N)=O | C6H10N3O4P
